US04133959
A mixture of 26.3 g. (0.0758 mole) of 4-(6-bromohexyl)-3,5-heptanedione, 13.1 g. (0.0787 mole) of ethyl p-hydroxybenzoate, 31.5 g. (0.228 mole) of powdered potassium carbonate, 4 g. of potassium iodide and 500 ml. of acetone was heated at reflux for 36 hours. The reaction mixture was concentrated in vacuo and partitioned between water and methylene dichloride. The organic layer was washed successively with sodium hydroxide solution, water, hydrochloric acid, water and sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solution was concentrated and the residue crystallized and recrystallized from n-pentane to give 4-[10-(4-carbethoxyphenoxy)decyl]-3,5-heptanedione, m.p. 45°-46° C.

reactant | 4-(6-bromohexyl)-3,5-heptanedione | 0.0758 mole | BrCCCCCCC(C(CC)=O)C(CC)=O | C13H23BrO2
reactant | ethyl p-hydroxybenzoate | 0.0787 mole | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | 0.228 mole | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-[10-(4-carbethoxyphenoxy)decyl]-3,5-heptanedione | C(=O)(OCC)C1=CC=C(OCCCCCCCCCCC(C(CC)=O)C(CC)=O)C=C1 | C26H40O5
